US07576212B2
[6-Chloro-3-(4-fluoro-phenyl)-thieno[2,3-b]pyridin-4-yl]-pyridin-2-ylmethyl-amine (40 mg, 0.1 mmol) was dissolved in acetic acid (3 ml). Zinc powder (71 mg, 1 mmol) was added and the mixture refluxed for 6 hr. On cooling, the mixture was filtered through celite and the solids washed with further portions of acetic acid (3×5 ml). The acetic acid extracts were neutralized with saturated sodium bicarbonate solution and extracted with DCM (2×50ml). The extracts were combined, dried over sodium sulfate and concentrated. The residue was purified on silica (ethyl actetate/hexane 20-40%) to give [3-(4-fluoro-phenyl)-thieno[2,3-b]pyridin-4-yl]-pyridin-2-ylmethyl-amine as a white solid. Yield=5.5 mg (15.2%).

reactant | [6-Chloro-3-(4-fluoro-phenyl)-thieno[2,3-b]pyridin-4-yl]-pyridin-2-ylmethyl-amine | 0.1 mmol, 40 mg | ClC1=CC(=C2C(=N1)SC=C2C2=CC=C(C=C2)F)NCC2=NC=CC=C2 | C19H13ClFN3S
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 1 mmol, 71 mg | [Zn] | Zn
product | [3-(4-fluoro-phenyl)-thieno[2,3-b]pyridin-4-yl]-pyridin-2-ylmethyl-amine | FC1=CC=C(C=C1)C1=CSC2=NC=CC(=C21)NCC2=NC=CC=C2 | C19H14FN3S
